US06953787B2
8-Cyano-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-cyano-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (10 mg, 0.032 mmol) in methanol (2 mL) was treated with 15% aqueous NaOH (2 mL), and stirred 1 hour at 50 C. The product mixture was diluted with water (5 mL), extracted twice with EtOAc (5 mL), the combined organic phases were washed with brine (5 mL), dried with Na2SO4 and concentrated to give 6.0 mg of a white solid. 1H NMR (400 MHz, CD3OD) d 7.33 (s, 1 H), 6.93 (s, 1 H), 3.91 (s, 3 H), 3.18−2.97 (m, 5 H), 2.80 (m, 1 H), 2.60 (m, 1 H), 1.33 (d, J=8 Hz, 3 H). MS calculated for C13H16N2O+H: 217, observed: 217.

reactant | N-trifluoroacetyl-8-cyano-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.032 mmol, 10 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OC)C#N)(F)F | C15H15F3N2O2
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 8-Cyano-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 6.0 mg | C(#N)C=1C(=CC2=C(C(CNCC2)C)C1)OC | C13H16N2O
